US07037935B2
a) (RS)-1-[4-(3-Fluoro-benzyloxy)-phenyl]-4-hydroxymethyl-pyrrolidin-2-one
The title compound is prepared in analogy to Example 33a) from (RS)-1-[4-(3-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid methyl ester and sodium borohydride. Yield: 82% of a colorless solid. MS: m/e=316.3 (M+H)+.

reactant | (RS)-1-[4-(3-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid methyl ester | COC(=O)C1CN(C(C1)=O)C1=CC=C(C=C1)OCC1=CC(=CC=C1)F | C19H18FNO4
reactant | sodium borohydride | [BH4-].[Na+]
product | (RS)-1-[4-(3-Fluoro-benzyloxy)-phenyl]-4-hydroxymethyl-pyrrolidin-2-one | FC=1C=C(COC2=CC=C(C=C2)N2C(CC(C2)CO)=O)C=CC1 | C18H18FNO3
